US07396847B2
N-[((5S)-3-{2-Fluoro-4′-[5-(1H-1,2,3-triazol-1-ylmethyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide
1-({3-[4-(Trimethylstannyl)phenyl]-4,5-dihydroisoxazol-5-yl}methyl)-1H-1,2,3-triazole (0.62 g, 1.58 mmol), N-{[(5S)-3-(3-fluoro-4-iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide (0.5 g, 1.32 mmol) and tri-2-furylphosphine (0.08 g, 0.34 mmol) were dissolved in 1,4-dioxane (6 ml) and degassed three times. Tris(dibenzylideneacetone)palladium (0) (0.16 g, 0.18 mmol) was added and the solution was degassed three times. The solution was stirred and heated to 90° C. for 18 hours. The mixture was concentrated in vacuo and then purified by silica flash chromatography with 5-10% methanol in dichloromethane as eluent giving 0.20 g desired product.

reactant | 1-({3-[4-(Trimethylstannyl)phenyl]-4,5-dihydroisoxazol-5-yl}methyl)-1H-1,2,3-triazole | 1.58 mmol, 0.62 g | C[Sn](C1=CC=C(C=C1)C1=NOC(C1)CN1N=NC=C1)(C)C
reactant | N-{[(5S)-3-(3-fluoro-4-iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide | 1.32 mmol, 0.5 g | FC=1C=C(C=CC1I)N1C(O[C@H](C1)CNC(C)=O)=O | C12H12FIN2O3
reactant | tri-2-furylphosphine | 0.34 mmol, 0.08 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | N-[((5S)-3-{2-Fluoro-4′-[5-(1H-1,2,3-triazol-1-ylmethyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide | 0.20 g | FC1=C(C=CC(=C1)N1C(O[C@H](C1)CNC(C)=O)=O)C1=CC=C(C=C1)C1=NOC(C1)CN1N=NC=C1 | C24H23FN6O4
